US07525717B2
6-Butylpyridin-2-yl trifluoromethanesulfonate
To a flask were added 0.9 g 6-butylpyridin-2-ol and 10 ml pyridine and the mixture was cooled to 10 C under nitrogen. 1.85 g trifluoromethanesulfonic anhydride were added slowly and the reaction mixture was allowed to warm to 22 C and stirred for 16 hours.

reactant | 6-butylpyridin-2-ol | 0.9 g | C(CCC)C1=CC=CC(=N1)O | C9H13NO
reactant | trifluoromethanesulfonic anhydride | 1.85 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 6-Butylpyridin-2-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=NC(=CC=C1)CCCC)(F)F | C10H12F3NO3S
